US09290496B2
Step 1: Preparation of 2-chloro-9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-9H -purin -6-amine
2,6-Dichloro-9-isopropyl-9H-purine (1.16 g, 5 mmol), as prepared in step 1 of Example 1, was mixed with 4-amino-1-methylpyrazole (1.02 g, 10 mmol) and DIPEA (1.74 mL, 10 mmol) in nBuOH (33 mL) and was stirred and heated at 100° C. (block temperature) for 1 hr. The reaction was cooled, and the volatiles were removed under vacuum to give a dark residue. Ethyl acetate (120 mL) was added and the mixture was washed with sat. aq. NaHCO3 (3×30 mL), dried over Na2SO4 and evaporated to give a dark residue. This residue was dissolved in ethyl acetate, passed through a thin pad of silica gel, and eluted with 90% ethyl acetate-10% ammonia (7 N in methanol). The eluent was evaporated to afford the title compound as a dark solid (1.43 g, 98% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.41 (br. s., 1 H) 8.38 (s, 1 H) 8.00 (s, 1 H) 7.68 (s, 1 H) 4.71 (quin, J=6.72 Hz, 1 H) 3.84 (s, 3 H) 1.52 (d, J=6.72 Hz, 6 H). m/z (APCI+) for C12H14ClN7 292.1 with Cl isotope pattern (M+H)+.

reactant | 2,6-Dichloro-9-isopropyl-9H-purine | 5 mmol, 1.16 g | ClC1=NC(=C2N=CN(C2=N1)C(C)C)Cl | C8H8Cl2N4
reactant | 4-amino-1-methylpyrazole | 10 mmol, 1.02 g | NC=1C=NN(C1)C | C4H7N3
reactant | DIPEA | 10 mmol, 1.74 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | nBuOH | 33 mL | C(CCC)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-9H -purin -6-amine | 1.43 g, 98% yield | ClC1=NC(=C2N=CN(C2=N1)C(C)C)NC=1C=NN(C1)C | C12H14ClN7
